US04346042
To pyridine (10.3 g, 0.13 m) in CH2Cl2 (300 ml) cooled to -23° in a dry ice/CCl4 bath was added trifluoromethanesulfonic anhydride (36.7 g, 0.13 m) in CH2Cl2 (100 ml) dropwise over 1/2 hour. While still cooling this mixture at -23°, (R)-glycidol (8.6 g, 0.116 m) in CH2Cl2 (100 ml) was added dropwise over 1/2 hour. After stirring for 5 minutes with cooling and 15 minutes without, an equal volume of hexane was added and the solids were filtered. Concentration of the solution at 30°/25 torr. left a residue which was distilled to give (S)-3-trifloxy-1,2-epoxypropane (40%); b.p. 35°-39°/0.2 mm; [α]D24 =14.7° (c=3.90, CHCl3); 1H NMR (CDCl3) 4.8 (1H, d of d, J=11, J=3 ), 4.4 (1H, d of d, J=11, J=3), 3.3 (1H, m), 2.9 (1H, t, J=4.5), 2.7 (1H, J=4.5, J=2).

reactant | pyridine | 10.3 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 36.7 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | (R)-glycidol | 8.6 g | C1[C@H](O1)CO | C3H6O2
reactant | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 300 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | (S)-3-trifloxy-1,2-epoxypropane | 40% | O(S(=O)(=O)C(F)(F)F)C[C@@H]1CO1 | C4H5F3O4S
